US08975252B2
N-Chlorosuccinimide (110 mg) was added to a solution of tert-butyl cyclopropyl[4-methoxy-3-(3-methoxypropoxy)benzyl]carbamate (300 mg) in acetonitrile (5.0 ml) under ice cooling and the mixture was stirred at room temperature for an hour and at 75° C. for 5 hours. The reaction mixture was concentrated in vacuo and the resulted residue was purified with a NH-silica gel column chromatography (eluting solvent: n-hexane/ethyl acetate=10/1 to 3/1) to give tert-butyl [2-chloro-4-methoxy-5-(3-methoxypropoxy)benzyl]cyclopropylcarbamate (265 mg) as a colorless oil.

reactant | N-Chlorosuccinimide | 110 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | tert-butyl cyclopropyl[4-methoxy-3-(3-methoxypropoxy)benzyl]carbamate | 300 mg | C1(CC1)N(C(OC(C)(C)C)=O)CC1=CC(=C(C=C1)OC)OCCCOC | C20H31NO5
solvent | acetonitrile | 5.0 ml | C(C)#N | C2H3N
product | tert-butyl [2-chloro-4-methoxy-5-(3-methoxypropoxy)benzyl]cyclopropylcarbamate | 265 mg | ClC1=C(CN(C(OC(C)(C)C)=O)C2CC2)C=C(C(=C1)OC)OCCCOC | C20H30ClNO5
